US04990614
Ethanolic solution (20 ml) of 1-benzyl-4-(2,4-dihydroxybenzoyl-L-asparaginyl)piperazine.hydrochloride (340 mg) was subjected to catalytic reduction in the presence of 10% palladium-carbon (300 mg) for 18 hours at room temperature and under atmospheric pressure in hydrogen stream. The catalyst was removed by filtration and the filtrate was concentrated under reduced pressure to obtain a colorless oily product. This product was powdered with addition of ether and then collected by filtration to obtain 1-(2,4-dihydroxybenzoyl-L-asparaginyl)piperazine.hydrochloride (212 mg).

reactant | 1-benzyl-4-(2,4-dihydroxybenzoyl-L-asparaginyl)piperazine.hydrochloride | 20 ml, 340 mg | Cl.C(C1=CC=CC=C1)N1CCN(CC1)C([C@@H](NC(C1=C(C=C(C=C1)O)O)=O)CC(N)=O)=O
reactant | ether | CCOCC | C4H10O
solvent | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 300 mg | [C].[Pd]
product | 1-(2,4-dihydroxybenzoyl-L-asparaginyl)piperazine.hydrochloride | 212 mg | Cl.OC1=C(C(=O)N[C@@H](CC(N)=O)C(=O)N2CCNCC2)C=CC(=C1)O | InChI=1S/C15H20N4O5.ClH/c16-13(22)8-11(15(24)19-5-3-17-4-6-19)18-14(23)10-2-1-9(20)7-12(10)21;/h1-2,7,11,17,20-21H,3-6,8H2,(H2,16,22)(H,18,23);1H/t11-;/m0./s1
